US08012974B2
DIPEA (1.8 mL, 10.3 mmol) was added at RT to a mixture of racemic trans 3-tert-butoxycarbonylamino-cyclohexanecarboxylic acid (1.00 g, 4.109 mmol), dimethylamine hydrochloride (0.0.503 g, 6.17 mmol), and EDCI (1.182 g, 6.17 mmol) in 13 mL of DCM. The resulting mixture was stirred at RT for 16 hours before being partitioned between H2O and DCM. The aqueous layer was back extracted twice with DCM. The combined organic layers were dried (Na2SO4), filtered, and evaporated. The residue was purified by SiO2 flash chromatography (DCM/MeOH 0 to 5% MeOH) to give 0.438 g (39%) of racemic trans 3-dimethylcarbamoyl-cyclohexyl carbamic acid tert-butyl ester.

reactant | DIPEA | 10.3 mmol, 1.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | racemic trans 3-tert-butoxycarbonylamino-cyclohexanecarboxylic acid | 4.109 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](CCC1)C(=O)O | C12H21NO4
reactant | dimethylamine hydrochloride | 6.17 mmol | Cl.CNC
reactant | EDCI | 6.17 mmol, 1.182 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | racemic trans 3-dimethylcarbamoyl-cyclohexyl carbamic acid tert-butyl ester | 0.438 g, 39% | C(C)(C)(C)OC(N[C@@H]1C[C@H](CCC1)C(N(C)C)=O)=O | C14H26N2O3
